US08217069B2
A mixture of 2-acetyl-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (0.18 g), p-toluene-sulfonic acid monohydrate (12 mg), trimethyl orthoformate (1 mL) and methanol (1 mL) was heated at reflux overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate) to give 9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-2-(1,1-dimethoxyethyl)-7,9-dihydro-8H-purin-8-one (74 mg). This material was dissolved in ethanol (1 mL)-tetrahydrofuran (1 mL). To the solution was added sodium borohydride (45 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (2 mL). To the solution were added concentrated hydrochloric acid (0.1 mL) and water (0.1 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to give the title compound (25 mg).

reactant | 2-acetyl-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.18 g | C(C)(=O)C1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OCC(=O)OCC)Cl)=O)OC | C26H23ClF2N4O8
reactant | p-toluene-sulfonic acid monohydrate | 12 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trimethyl orthoformate | 1 mL | C(OC)(OC)OC | C4H10O3
solvent | methanol | 1 mL | CO | CH4O
product | 9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-2-(1,1-dimethoxyethyl)-7,9-dihydro-8H-purin-8-one | 74 mg | ClC1=C(C=C(C(=C1)OCC(=O)OCC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C(C)(OC)OC | C28H29ClF2N4O9
